Real PDK phase generator loaded schematic PVT test
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice fs
.include ../sensor_phases.spice
.temp 27
.options reltol=1e-4 abstol=1e-12 vntol=1e-7 method=gear
VDD vdd 0 1.62
VCMD cmd 0 PULSE(0 1.62 1u 1n 1n 2.5u 10u)
XPH cmd top topb acq conv vdd 0 sensor_phases
CTOP top 0 100f
CTOPB topb 0 100f
CACQ acq 0 500f
CCONV conv 0 500f
.control
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 2n 15u 0 2n
wrdata waveform.dat v(cmd) v(top) v(topb) v(acq) v(conv) i(vdd)
quit
.endc
.end
